### PR TITLE
[Merged by Bors] - feat(Data/Fin/Parity): add lemmas about parity of `Fin` numbers

### PR DESCRIPTION
**Pull request by urkud**
Co-authored-by: Iván Renison <85908989+IvanRenison@users.noreply.github.com>

---

Motivated by [this](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.28u.20.3A.20Fin.202.29.20.20.E2.86.92.20.28Even.20u.20.E2.86.94.20Even.20u.2Eval.29) Zulip question.

- [x] depends on: #8974

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Parity.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
...
+
+In this file we prove that an element `k : Fin n` is even in `Fin n`
+iff `n` is odd or `Fin.val k` is even.
+-/
+
+namespace Fin
+
+/-- In `Fin n`, all elements are even for odd `n`,
+otherwise an element is even iff its `Fin.val` value is even. -/
+lemma even_iff {n : ℕ} {k : Fin n} : Even k ↔ Odd n ∨ Even k.val := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Parity.lean:20]: Can you add `odd_iff` for good measure?

Comment (urkud) [reply Mathlib/Data/Fin/Parity.lean:20]: With the current definition, it needs a `Semiring (Fin n)` instance which is not available till `ZMod`.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Parity.lean:20]: `Data.ZMod.Defs` is quite a lightweight import, so I think that's fine

File: Mathlib/Data/Fin/Parity.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+  constructor
+  · rintro ⟨k, rfl⟩
+    rw [or_iff_not_imp_left, ← Nat.even_iff_not_odd]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Parity.lean:23]: It might make sense to bake this into the statement, as `Even k ↔ (Even n → Even k.val)`. I think it would shorten the proof here and below.

**Comment by IvanRenison** [comment]
@urkud are you going to continue with this pull request? If not, can I continue with it?

**Comment by urkud** [comment]
Feel free to take over this PR. Thanks!

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by kim-em** [comment]
bors merge

**Comment by IvanRenison** [comment]
For some reason the commit has the "Co-authored-by" two times

**Comment by bryangingechen** [comment]
bors d=IvanRenison

**Comment by bryangingechen** [comment]
Please merge `master`, fix the breakage and then merge with `bors d+` when done, thanks!

**Comment by Command-Master** [comment]
Apologies for the late review, I forgot to send it earlier

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -451,6 +458,8 @@ whose value is the original number. -/
 theorem val_cast_of_lt {n : ℕ} [NeZero n] {a : ℕ} (h : a < n) : (a : Fin n).val = a :=
   Nat.mod_eq_of_lt h
 
+theorem one_val_cast {n : ℕ} [NeZero n] (h : 1 < n) : (1 : Fin n).val = 1 := val_cast_of_lt h
```
[the remark this answers is not in the document]
Comment (IvanRenison) [reply Mathlib/Data/Fin/Basic.lean:456]: It does not work, I get the error `tactic 'rewrite' failed, did not find instance of the pattern in the target expression
  ↑↑1` because in the target expression I have `↑1`

**Comment by IvanRenison** [comment]
Thanks for the review @Command-Master, I was very surprised that the first to reviewers didn't find anything. I was very lucky that the build failed

File: Mathlib/Data/Fin/Parity.lean [hunk 4]
```diff
@@ -0,0 +1,107 @@
...
+In this file we prove that an element `k : Fin n` is even in `Fin n`
+iff `n` is odd or `Fin.val k` is even.
+-/
+
+open Fin
+
+namespace Fin
+
+lemma even_of_val {n : ℕ} {k : Fin n} (h : Even k.val) : Even k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:22]:
```suggestion
  have : NeZero n := ⟨k.pos.ne'⟩
```

File: Mathlib/Data/Fin/Parity.lean [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+  rw [← Fin.cast_val_eq_self k]
+  exact h.natCast
+
+lemma odd_of_val {n : ℕ} [NeZero n] {k : Fin n} (h : Odd k.val) : Odd k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:27]:
```suggestion
```

File: Mathlib/Data/Fin/Parity.lean [hunk 6]
```diff
@@ -0,0 +1,107 @@
...
+  rw [← Fin.cast_val_eq_self k]
+  exact h.natCast
+
+lemma even_of_odd {n : ℕ} (hn : Odd n) (k : Fin n) : Even k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:32]:
```suggestion
  have : NeZero n := ⟨k.pos.ne'⟩
```

File: Mathlib/Data/Fin/Parity.lean [hunk 7]
```diff
@@ -0,0 +1,107 @@
...
+  apply k.val.even_or_odd.elim
+  · intro hk
+    exact even_of_val hk
+  · intro hk
+    simpa using (Odd.add_odd hk hn).natCast (α := Fin n)
+
+lemma odd_of_odd {n : ℕ} [NeZero n] (hn : Odd n) (k : Fin n) : Odd k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:40]:
```suggestion
```

File: Mathlib/Data/Fin/Parity.lean [hunk 8]
```diff
@@ -0,0 +1,107 @@
...
+  rw [← Fin.cast_val_eq_self k]
+  exact h.natCast
+
+lemma even_of_odd {n : ℕ} (hn : Odd n) (k : Fin n) : Even k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
+  apply k.val.even_or_odd.elim
+  · intro hk
+    exact even_of_val hk
+  · intro hk
+    simpa using (Odd.add_odd hk hn).natCast (α := Fin n)
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:37]:
```suggestion
  rcases k.val.even_or_odd with hk | hk
  · exact even_of_val hk
  · simpa using (Odd.add_odd hk hn).natCast (α := Fin n)
```

File: Mathlib/Data/Fin/Parity.lean [hunk 9]
```diff
@@ -0,0 +1,107 @@
...
+
+lemma odd_of_odd {n : ℕ} [NeZero n] (hn : Odd n) (k : Fin n) : Odd k := by
+  haveI : NeZero n := ⟨Nat.not_eq_zero_of_lt k.2⟩
+  apply k.val.even_or_odd.elim
+  · intro hk
+    simpa using (Even.add_odd hk hn).natCast (R := Fin n)
+  · intro hk
+    exact odd_of_val hk
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:45]:
```suggestion
  rcases k.val.even_or_odd with hk | hk
  · simpa using (Even.add_odd hk hn).natCast (R := Fin n)
  · exact odd_of_val hk
```

File: Mathlib/Data/Fin/Parity.lean [hunk 10]
```diff
@@ -0,0 +1,107 @@
...
+    exact odd_two_mul_add_one x
+
+/-- In `Fin n`, all elements are even for odd `n`,
+otherwise an element is even iff its `Fin.val` value is even. -/
+lemma even_iff {n : ℕ} {k : Fin n} : Even k ↔ (Odd n ∨ Even k.val) := by
+  refine ⟨fun hk ↦ ?_, or_imp.mpr ⟨(even_of_odd · k), even_of_val⟩⟩
+  rw [← Nat.not_even_iff_odd, ← imp_iff_not_or]
+  exact fun hn ↦ (even_iff_of_even hn).mp hk
+
+/-- A variation of the above lemma -/
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:90]: Could you make this docstring slightly more descriptive (describe the variation)?

File: Mathlib/Data/Fin/Parity.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+  exact even_iff
+
+/-- In `Fin n`, all elements are odd for odd `n`,
+otherwise an element is off iff its `Fin.val` value is off. -/
+lemma odd_iff {n : ℕ} [NeZero n] {k : Fin n} : Odd k ↔ Odd n ∨ Odd k.val := by
+  refine ⟨fun hk ↦ ?_, or_imp.mpr ⟨(odd_of_odd · k), odd_of_val⟩⟩
+  rw [← Nat.not_even_iff_odd, ← imp_iff_not_or]
+  exact fun hn ↦ (odd_iff_of_even hn).mp hk
+
+/-- A variation of the above lemma -/
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:102]: Same here

File: Mathlib/Data/Fin/Parity.lean [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+    have hxl : 2 * x + 1 = (2 * l + 1).val := by
+      rw [two_mul l, two_mul x, hxxll, @val_add_eq_of_add_lt (n + n) (l + l) 1]
+      · simp only [add_right_inj]
+        exact (Nat.one_mod_eq_one.mpr n.add_self_ne_one).symm
+      · rw [one_val_cast  (Nat.one_lt_of_ne_zero_of_even (NeZero.ne (n + n)) hnn)]
+        refine Nat.add_one_lt_of_even
+          ((even_iff_of_even hnn).mp (even_add_self l)) hnn ?_
+        fin_omega
+    rw [← hxl]
+    exact odd_two_mul_add_one x
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:81]:
```suggestion
  rcases hn with ⟨n, rfl⟩
  refine ⟨?_, odd_of_val⟩
  rintro ⟨l, rfl⟩
  rw [val_add, val_mul, val_one', show Fin.val 2 = 2 % _ from rfl]
  simp only [Nat.mod_mul_mod, Nat.add_mod_mod, Nat.mod_add_mod, Nat.odd_iff]
  rw [Nat.mod_mod_of_dvd _ ⟨n, (two_mul n).symm⟩,
    ← Nat.odd_iff, Nat.odd_add_one, Nat.not_odd_iff_even]
  simp
```

File: Mathlib/Data/Fin/Basic.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (Command-Master) [reply Mathlib/Data/Fin/Basic.lean:456]: I made a suggestion which avoids it, but if you want to keep it I think it should be named `val_one_of_one_lt`

File: Mathlib/Data/Fin/Parity.lean (hunk 10 above)
Comment (IvanRenison) [reply Mathlib/Data/Fin/Parity.lean]: "A logic variation of the above lemma" it's okey? I added a description mainly because for `'` lemmas is mandatory, but I don't now what to put to not repeat the same

Comment (Command-Master) [reply Mathlib/Data/Fin/Parity.lean]: Perhaps you can rename it to `even_iff_imp` and then you don't have to add a docstring

File: Mathlib/Data/Fin/Parity.lean [hunk 13]
```diff
@@ -0,0 +1,83 @@
...
+  rw [← Nat.not_even_iff_odd, ← imp_iff_not_or]
+  exact fun hn ↦ (even_iff_of_even hn).mp hk
+
+/-- A logic variation of the above lemma -/
+lemma even_iff' {n : ℕ} {k : Fin n} : Even k ↔ (Even n → Even k.val) := by
+  rw [imp_iff_not_or, Nat.not_even_iff_odd]
+  exact even_iff
+
+/-- In `Fin n`, all elements are odd for odd `n`,
+otherwise an element is off iff its `Fin.val` value is off. -/
```
Comment (Command-Master) [inline Mathlib/Data/Fin/Parity.lean:72]:
```suggestion
otherwise an element is odd iff its `Fin.val` value is odd. -/
```

**Review by Command-Master — APPROVED** [review]
